US07553969B1
To a solution of Boc-Phe(2-F)-OH (0.20 g, 0.706 mmol), N-Me-Val-N-Me-Tyr(3-tBu)-NH2 (0.21 g, 0.578 mmol) and CMPI (0.20 g, 0.783 mmol) in THF (6 ml), TEA (0.30 ml, 2.15 mmol) was added under cooling with ice and stirred at room temperature overnight. The reaction mixture was mixed with water and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated to remove the solvent under reduced pressure; the thus obtained residue was subjected to silica gel column chromatography (developing solvent: chloroform:methanol:aqueous ammonia=60:1:0.05) to give Boc-Phe(2-F)-N-Me-Val-N-Me-Tyr(3-tBu)-NH2 (0.33 g, 91%).

reactant | Boc-Phe(2-F)-OH | 0.706 mmol, 0.20 g | N([C@@H](CC=1C(=CC=CC1)F)C(=O)O)C(=O)OC(C)(C)C | C14H18FNO4
reactant | N-Me-Val-N-Me-Tyr(3-tBu)-NH2 | 0.578 mmol, 0.21 g | N([C@@H](C(C)C)C(=O)N([C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)N)C)C | C20H33N3O3
reactant | water | O | H2O
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | Boc-Phe(2-F)-N-Me-Val-N-Me-Tyr(3-tBu)-NH2 | 0.33 g, 91% | N([C@@H](CC=1C(=CC=CC1)F)C(=O)N([C@@H](C(C)C)C(=O)N([C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)N)C)C)C(=O)OC(C)(C)C | C34H49FN4O6
